US08053453B2
Synthesis of 4-methoxycarbonylbenzoic N′-(1-(3-methyl-5-oxo-1-(4-trifluoromethylphenyl)-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide
From 1-(5-hydroxy-3-methyl-1-(4-trifluoromethylphenyl)-1H-pyrazol-4-yl)-ethanone and 4-methoxycarbonylbenzhydrazide, 58.9 mg of the desired product was obtained in the same manner as in Synthetic Example 4 as a yellow solid (yield 65%).

reactant | 1-(5-hydroxy-3-methyl-1-(4-trifluoromethylphenyl)-1H-pyrazol-4-yl)-ethanone | OC1=C(C(=NN1C1=CC=C(C=C1)C(F)(F)F)C)C(C)=O | C13H11F3N2O2
reactant | 4-methoxycarbonylbenzhydrazide | COC(=O)C1=CC=C(C(=O)NN)C=C1 | C9H10N2O3
product | 4-methoxycarbonylbenzoic N′-(1-(3-methyl-5-oxo-1-(4-trifluoromethylphenyl)-1,5-dihydropyrazol-4-ylidene)-ethyl)-hydrazide | 58.9 mg | CC1=NN(C(C1=C(C)NNC(C1=CC=C(C=C1)C(=O)OC)=O)=O)C1=CC=C(C=C1)C(F)(F)F | C22H19F3N4O4
